US04728645
5-(p-Aminophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 2.42 g of 5-(p-carboxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 100 ml of ethylene dichloride is treated with 6 ml of concentrated sulfuric acid. The reaction mixture is heated to 40° and 6 ml of hydrazoic acid (2M in ethylene dichloride) is added dropwise. When gas evolution has ceased, the reaction mixture is evaporated. The residue is redissolved in water and adjusted to pH 10. The aqueous phase is extracted with methylene chloride (3×30 ml). The organic extracts are dried over potassium carbonate and evaporated to yield the title compound.

reactant | 5-(p-carboxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 2.42 g | C(=O)(O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H14N2O2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrazoic acid | 2M, 6 ml | N=[N+]=[N-] | HN3
solvent | ethylene dichloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 5-(p-Aminophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | NC1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C13H15N3
